US07732448B2
0.25 g of 4,6-dichloro-5-fluoropyrimidine and 0.34 g of cis-2,6-dimethylpiperidine were mixed and stirred for 11 hours at 70° C. The reaction mixture was subjected to silica gel column chromatography to obtain 0.21 g of 4-chloro-6-(cis-2,6-dimethylpiperidino)-5-fluoropyrimidine.

reactant | 4,6-dichloro-5-fluoropyrimidine | 0.25 g | ClC1=NC=NC(=C1F)Cl | C4HCl2FN2
reactant | cis-2,6-dimethylpiperidine | 0.34 g | C[C@@H]1N[C@@H](CCC1)C | C7H15N
product | 4-chloro-6-(cis-2,6-dimethylpiperidino)-5-fluoropyrimidine | 0.21 g | ClC1=NC=NC(=C1F)N1[C@H](CCC[C@H]1C)C | C11H15ClFN3
